US04260612
5.0 g. (14.64 mmoles) of 6-methyl-9-(N-methylanilino)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester are dissolved in 100 ml. of chloroform. The solution is heated for 9 hours under reflux and air is bubbled into the reaction mixture. The solvent is distilled off in vacuo. The residue is crystallized from ethanol. 2.9 g. (58.4%) of 6-methyl-9-(N-methyl-anilino)-4-oxo-6,7-dihydro-4H-pyrido[I,2-a]pyrimidine-3-carboxylic acid ethyl ester is obtained which does not give a melting point depression when admixed with the product of Example 7. Melting point: 140°-142° C.

reactant | 6-methyl-9-(N-methylanilino)-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 14.64 mmoles | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2N(C2=CC=CC=C2)C)C | C19H23N3O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-methyl-9-(N-methyl-anilino)-4-oxo-6,7-dihydro-4H-pyrido[I,2-a]pyrimidine-3-carboxylic acid ethyl ester | 58.4% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CC=C2N(C2=CC=CC=C2)C)C | C19H21N3O3
